US08003703B2
(i) 2-Chloro-1-(5-fluoro-2-methoxyphenoxy)-4-nitrobenzene
Sodium hydride (60% disp. oil, 0.281 g) was added to a solution of 5-fluoro-2-methoxyphenol (11.0 g) in DMF (20 ml) and stirred at RT for 30 min. 2-Chloro-1-fluoro-4-nitrobenzene (1.23 g) was added and the mixture stirred at RT for 16 h then diluted with water and extracted with diethylether. The organics were dried and evaporated under reduced pressure, yield 1.95 g.

reactant | Sodium hydride | 0.281 g | [H-].[Na+]
reactant | 5-fluoro-2-methoxyphenol | 11.0 g | FC=1C=CC(=C(C1)O)OC | C7H7FO2
reactant | 2-Chloro-1-fluoro-4-nitrobenzene | 1.23 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3ClFNO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-Chloro-1-(5-fluoro-2-methoxyphenoxy)-4-nitrobenzene | ClC1=C(C=CC(=C1)[N+](=O)[O-])OC1=C(C=CC(=C1)F)OC | C13H9ClFNO4
